US07709642B2
83 mg (0.139 mmol) of (3S,4S)-3-[3-(4-methanesulfonyl-benzyl)-2,4-dioxo-1,3,8-triaza-spiro[4.5]dec-8-ylmethyl]-4-phenyl-pyrrolidine-1-carboxylic acid tert-butyl ester was dissolved in 3 mL of DCM and 1 mL of TFA and the solution was stirred overnight. The mixture was then evaporated to dryness and the residue was redissolved in 2 mL of toluene and evaporated again at 40° C. The crude compound was then dissolved in 5 mL of 5% methanol in DCM and filtered through a ChemElute™ loaded with 1 mL of 2 M NaOH. The filtrate was evaporated to yield 3-(4-methanesulfonyl-benzyl)-8-((3R,4S)-4-phenyl-pyrrolidin-3-ylmethyl)-1,3,8-triaza-spiro[4.5]decane-2,4-dione (52.1 mg, 76%).

reactant | (3S,4S)-3-[3-(4-methanesulfonyl-benzyl)-2,4-dioxo-1,3,8-triaza-spiro[4.5]dec-8-ylmethyl]-4-phenyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.139 mmol, 83 mg | C(C)(C)(C)OC(=O)N1C[C@@H]([C@H](C1)C1=CC=CC=C1)CN1CCC2(C(N(C(N2)=O)CC2=CC=C(C=C2)S(=O)(=O)C)=O)CC1 | C31H40N4O6S
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | 3-(4-methanesulfonyl-benzyl)-8-((3R,4S)-4-phenyl-pyrrolidin-3-ylmethyl)-1,3,8-triaza-spiro[4.5]decane-2,4-dione | 52.1 mg, 76% | CS(=O)(=O)C1=CC=C(CN2C(NC3(C2=O)CCN(CC3)C[C@H]3CNC[C@@H]3C3=CC=CC=C3)=O)C=C1 | C26H32N4O4S
